US06927214B1
(2-Bromo-3-trifluoromethyl-quinoxalin-6-yl)phenyl Methanone
A mixture of 6-benzoyl-3-trifluoromethylquinoxalin-2(1H)-one (1.0 g, 3.13 mmol) [J. Org. Chem. 57(21). 5630,1992] and 10 ml of phosphorous tribromide was refluxed for 5 hours. The mixture was cooled and poured into ice water and the precipitate was isolated, washed with water and dried. Yield 0.87 g (73%) of the title compound as beige crystals.

reactant | 6-benzoyl-3-trifluoromethylquinoxalin-2(1H)-one | 3.13 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)C=1C=C2N=C(C(NC2=CC1)=O)C(F)(F)F | C16H9F3N2O2
reactant | phosphorous tribromide | 10 ml | P(Br)(Br)Br | Br3P
product | (2-Bromo-3-trifluoromethyl-quinoxalin-6-yl)phenyl Methanone | BrC1=NC2=CC=C(C=C2N=C1C(F)(F)F)C(=O)C1=CC=CC=C1 | C16H8BrF3N2O
